US05599833
Preparation of [6-n-butylsulfonoyl-2- [4-hydroxyphenyl]benzo [b]thien-3-yl]-[4-[2-(1piperidinyl )ethoxy]phenyl]methanone hydrochloride.
3 g of [6-n-butylsulfonoyl-2-[4-hydroxyphenyl]-benzo[b]thien-3-yl]-[4-[2-(1-piperidinyl)ethoxy]-phenyl]methanone was dissolved in 50 mL of EtOAc and a solution of Et2O saturated with HCl was added. A thick white precipitate formed and the liquid was decanted off. The solid was triturated (2x) with Et2O and dried. This afforded 2.51 g of the title compound as a white amorphous powder.

reactant | [6-n-butylsulfonoyl-2-[4-hydroxyphenyl]-benzo[b]thien-3-yl]-[4-[2-(1-piperidinyl)ethoxy]-phenyl]methanone | 3 g | C(CCC)S(=O)(=O)C=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)O)C1 | C32H35NO5S2
reactant | Et2O | CCOCC | C4H10O
reactant | HCl | Cl | ClH
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | [6-n-butylsulfonoyl-2- [4-hydroxyphenyl]benzo [b]thien-3-yl]-[4-[2-(1piperidinyl )ethoxy]phenyl]methanone hydrochloride | Cl.C(CCC)S(=O)(=O)C=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)O)C1 | InChI=1S/C32H35NO5S2.ClH/c1-2-3-21-40(36,37)27-15-16-28-29(22-27)39-32(24-7-11-25(34)12-8-24)30(28)31(35)23-9-13-26(14-10-23)38-20-19-33-17-5-4-6-18-33;/h7-16,22,34H,2-6,17-21H2,1H3;1H
